* source OP-AMP
X_U1         0 N00297 N00334 N00434 OUT OPA2743
R_R1         IN N00297  2k TC=0,0 
R_R2         N00297 OUT  40k TC=0,0 
R_R3         0 OUT  1k TC=0,0 
V_V1         0 N00434 12
V_V3         IN 0  AC 0
+SIN 0 100m 1000 0 0 0
V_V2         0 N00334 -12
