* source TPS40170
R_R4         N14503866 FB  15k TC=0,0 
X_L1         SW VOUT LDCR PARAMS:  L={L}  DCR=5.9m IC=0   
I_I1         VOUT 0 DC 10Adc  
C_C13         COMP N14503866  10n  TC=0,0 
C_Cinj         N145229710 N14501586  100k  TC=0,0 
C_C21         FB N14514516  820p  TC=0,0 
L_Linj         VOUT N14501586  100k  
C_C14         COMP FB  22p  TC=0,0 
V_VIN         VIN 0 24
X_C9         VOUT 0 CESR PARAMS:  C=29u  ESR=2m X=3  IC=2
X_C22         VOUT 0 CESR PARAMS:  C=6u  ESR=2m X=2  IC=2
R_R10         0 FB  2.74k TC=0,0 
V_V8         N145229710 0 DC 0Vdc AC 1Vac 
R_R13         N14514516 N14501586  499 TC=0,0 
R_R11         FB N14501586  20k TC=0,0 
X_U1         FB SW COMP VIN 0 TPS40170_AVG PARAMS:  L={L} FS={FS}
.PARAM  l=5.56u fs=300k
